US09056859B2
Step E: 2-(Prop-2-en-1-yl)thieno[2,3-C]furan-6(4H)-one
In a 15 mL microwave reaction vial was added 2-bromothieno[2,3-c]furan-6(4H)-one (45 mg, 0.205 mmol), 4,4,5,5-tetramethyl-2-(prop-2-en-1-yl)-1,3,2-dioxaborolane (34.5 mg, 0.205 mmol, 1.0 eq), potassium carbonate (56.8 mg, 0.411 mmol, 2.0 eq) and palladium triphenylphosphane (1:4) (23.7 mg, 0.021 mmol, 0.1 eq). To above mixture was added DMF (1.0 mL), de-gas and filled with N2. The vial was heated to 100° C. for 60 min, cooled down, diluted with EtOAc, washed with aqueous sodium bicarbonate, brine and water. The organic phase was dried over anhydrous Na2SO4, filtered, concentrated. The crude product was purified by flash column chromatography. LC-MS (IE, m/z): 181.2 [M+1]+.

reactant | 2-bromothieno[2,3-c]furan-6(4H)-one | 0.205 mmol, 45 mg | BrC1=CC2=C(C(OC2)=O)S1 | C6H3BrO2S
reactant | 4,4,5,5-tetramethyl-2-(prop-2-en-1-yl)-1,3,2-dioxaborolane | 0.205 mmol, 34.5 mg, 1.0 eq | CC1(OB(OC1(C)C)CC=C)C | C9H17BO2
reactant | potassium carbonate | 0.411 mmol, 56.8 mg, 2.0 eq | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium triphenylphosphane | 0.021 mmol, 23.7 mg, 0.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 2-(Prop-2-en-1-yl)thieno[2,3-C]furan-6(4H)-one | C(C=C)C1=CC2=C(C(OC2)=O)S1 | C9H8O2S
